Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with BPPV, diverticulitis, and anxiety presents with 
exertional lightheadedness and orthostasis.

The patient describes two separate constellations of symptoms.  
The first is her known BPPV for which she gets room spinning.  
She has been having this for months and it is improved by 
meclizine use.  However, over the past 2 weeks she has a new 
symptom of lightheadedness upon standing or walking long 
distances.  This is not associated with chest pain, dyspnea, 
sweating, or any other systemic symptoms.  She denies fever or 
chills.  She denies dysuria.  She has never had this particular 
symptom in the past.  It is not improved with meclizine.  She 
describes having a fall about a month ago in the setting of her 
BPPV symptoms but was not having her new symptoms at that time.  
She has also felt generalized weakness and significant fatigue. 
She does have a headache described as intermittent, dull pain 
over various parts of the head, similar to her headache patient 
has had in the past.  She is currently menstruating.  She 
usually has regular cycles monthly with 5 days of heavy 
bleeding.

In the ED initial vitals were: temp 98.6F, HR 105, RR 18, BP 
132/88, SpO2 100% RA

Exam: Her neurologic exam is normal. She has a steady gait, can 
heel walk, toe walk, and tandem gait. 

EKG: HR 86, NSR, nml axis, <1mm ST elevation in V1-V2. ST 
depressions in II, III, and aVF. No TWI.

Labs/studies notable for: troponins negative x2, Hgb 10.1, Hct 
33.0, plts 102. CT head negative for bleed or acute process. CXR 
without acute process. L ankle XR without acute bony or soft 
tissue abnormality.

Patient was given: no medications given in ED
Vitals on transfer: temp 98.2F, HR 77, RR 18, BP 139/72, 97% RA

REVIEW OF SYSTEMS:  
Positive per HPI. Otherwise negative. 

 
Past Medical History:
Anxiety
BPPV
Diverticulitis
Anemia
History of cholecystectomy
 
Social History:
___
Family History:
Mother with MI in ___. No family history of colon cancer or 
blood disorders/malignancies.

 
Physical Exam:
ADMISSION EXAM:
---------------
VS: ___ 2110 Temp: 98.6 PO BP: 156/95 HR: 95 RR: 16 O2 sat: 
100% O2 delivery: ra   
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink.   
NECK: Supple. JVP WNL.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly. Scan from prior chole. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.    
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM:
---------------
VS: 24 HR Data (last updated ___ @ 827) 
Temp: 98.0 (Tm 98.6), BP: 101/60 (101-156/60-95), HR: 60 
(60-95), RR: 18 (___), O2 sat: 99% (97-100), O2 delivery: ra, 
Wt: 186.51 lb/84.6 kg 
 Orthostatics negative 

GEN:   sitting up in bed in NAD
HEENT: NC/AT JVP not elevated
___:   RRR, nl s1/s2, no murmur
PULM:  CTABL no increased WOB  
ABD:   soft, ND, minimally tender in lower quandrants a/w
       menstruation, +BS
EXTR:  WWP, no edema over lower extremities    
PULSE: distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 12:00PM BLOOD WBC-6.3 RBC-4.29 Hgb-10.1* Hct-33.0* 
MCV-77* MCH-23.5* MCHC-30.6* RDW-15.7* RDWSD-42.6 Plt ___
___ 12:00PM BLOOD Neuts-72.7* ___ Monos-6.9 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-4.55 AbsLymp-1.21 
AbsMono-0.43 AbsEos-0.03* AbsBaso-0.01

PERTINENT LABS:
---------------
___ 12:00PM BLOOD cTropnT-<0.01
___ 03:11PM BLOOD cTropnT-<0.01
___ 12:46AM BLOOD CK-MB-<1 cTropnT-<0.01

___ 12:46AM BLOOD Ret Aut-1.1 Abs Ret-0.05
___ 12:46AM BLOOD Iron-28* calTIBC-458 Hapto-231* 
Ferritn-7.3* TRF-352
___ 12:46AM BLOOD ___ 08:02AM BLOOD VitB12-314 Folate->20

___ 12:46AM BLOOD HIV Ab-NEG
___ 12:46AM BLOOD HCV Ab-NEG
___ 12:46AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG

___ 12:46AM BLOOD %HbA1c-5.0 eAG-97
___ 12:46AM BLOOD Chol-178 ___ HDL-77 CHOL/HD-2.3 
LDLcalc-80 LDLmeas-104

IMAGING:
---------------
___ XR L Ankle AP, MORTISE AND LAT
Indication: Recent Fall
- There is no evidence of fracture, dislocation, lytic or 
sclerotic lesions demonstrated.  No soft tissue abnormality 
present. 

___ CXR PA/LAT
IMPRESSION:  
- Heart size is normal.  Mediastinum is normal.  Lungs overall 
clear.  No 
appreciable pleural effusion or pneumothorax is seen.  Overall 
unremarkable chest radiograph 

___ ___
FINDINGS:  
- There is no evidence of infarction, hemorrhage, edema, or 
mass.  The 
ventricles and sulci are normal in size and configuration. 
- There is no evidence of fracture.  The visualized portion of 
the paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear.  The visualized portion of the orbits are 
unremarkable. 
IMPRESSION:  
- No acute intracranial findings. 

___ Stress Test
- INTERPRETATION: This ___ year old woman with a h/o HLD and a 
+family h/o premature CAD was referred to the lab following 
negative serial cardiac biomarkers for evaluation of an abnormal 
EKG. Due to recent ankle injury the patient was administered 0.4 
mg of regadenoson over 20 seconds. At 2.5 minutes post-infusion 
the patient reported a substernal chest tightness, which was 
absent by 4.5 minutes post-infusion following the administration 
of 60 mg/ 3 mL IV caffeine. At 19 seconds post-infusion there 
was 0.5-1.0 mm downsloping ST segment depression with T wave 
inversions in the inferior leads and V3-6. These changes slowly 
resolved as recovery continued and were absent by 12 minutes of 
recovery. The rhythm was sinus without ectopy. Appropriate blood 
pressure and heart rate responses to the infusion and in 
recovery. 
- IMPRESSION: Possible anginal type symptoms with borderline 
ischemic EKG changes. Appropriate hemodynamic response to 
vasodilator stress. Nuclear report sent separately. 

___ pMIBI
IMAGING METHOD:  
- Resting perfusion images were obtained with Tc-99m sestamibi. 
Tracer was injected approximately 45 minutes prior to obtaining 
the resting images. Following resting images and following 
intravenous infusion of the pharmacologic stress agent, 
approximately three times the resting dose of Tc-99m sestamibi 
was administered intravenously. Stress images were obtained 
approximately 30minutes following tracer injection. Imaging 
protocol: Gated SPECT.    
FINDINGS:  
- Left ventricular cavity size is normal. 
- Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.  
- Gated images reveal normal wall motion.  
- The calculated left ventricular ejection fraction is 64%. 
- No prior study for comparison. 
IMPRESSION: Normal myocardial perfusion.  Normal ejection 
fraction of 64%. 

DISCHARGE LABS:
---------------
___ 08:02AM BLOOD WBC-5.3 RBC-4.00 Hgb-9.3* Hct-30.9* 
MCV-77* MCH-23.3* MCHC-30.1* RDW-15.5 RDWSD-42.9 Plt ___
___ 08:02AM BLOOD ___ PTT-20.6* ___
___ 08:02AM BLOOD Glucose-86 UreaN-8 Creat-0.8 Na-141 K-4.2 
Cl-105 HCO3-21* AnGap-15
___ 08:02AM BLOOD ALT-8 AST-20 LD(LDH)-181 AlkPhos-78 
TotBili-0.4
___ 08:02AM BLOOD Albumin-4.0 Calcium-8.9 Phos-3.3 Mg-2.___ with PMH BPPV, h/o iron deficiency anemia in setting of 
menorrhagia from uterine fibroid, diverticulitis, anxiety, who 
presented with exertional lightheadedness and orthostasis in 
setting of menstruation.

ACUTE ISSUES:
-------------
#EXERTIONAL LIGHTHEADEDNESS
#SYMPTOMATIC ANEMIA
#IRON DEFICIENCY ANEMIA
#UTERINE FIBROID
#MENORRHAGIA
Pt presented with symptoms of exertional vs. positional 
lightheadedness in the setting of recent menorrhagia, then was 
found to have iron deficiency anemia of unclear chronicity 
(ferritin 7.3, serum Fe 28). Unknown baseline as pt recently 
moved from ___ and does not have past medical records with her. 
Hb on admission 10.1. Orthostatics positive on admission, now 
negative s/p 1L IVF. Smear without blasts or any emergent 
concerning findings. No appropriate increase in reticulocytes. 
Due to reported history of low B12, this was also checked and 
was normal, as was folate level. Pt was given Fe gluconate 125mg 
IV x1 and started on PO Fe supplementation every other day. She 
should receive recheck CBC in 1 week and recheck Fe panel 
roughly around ___ to assess ongoing need for PO repletion. 
She should also be connected to GYN as an outpatient to workup 
menorrhagia/reported uterine fibroid. On discharge, Hb was 9.3 
(drop thought to be due to hemodilution).

#THROMBOCYTOPENIA
Also with mild thrombocytopenia noted on admission labs, unknown 
baseline. No e/o hemolysis, no coagulopathy. HIV negative. HBV 
and HCV panels only demonstrating non-HBV immunized status. Per 
pt, spent last 9 months in ___ where she was told 
she had low platelets (first time) which were serially 
monitored. As a transitional issue, should consider further 
monitoring and workup as needed.

#NON-SPECIFIC ECG CHANGES
#CONCERN FOR CORONARY ARTERY DISEASE
#CONCERN FOR VALVULAR DISEASE
Due to exertional symptoms noted above, as well as reported 
family history of early MI, there was initial c/f atypical 
presentation of ischemic disease. However, reassuringly troponin 
negative x3. In terms of risk stratification, A1c was 5.0% and 
lipids wnl. Pharmacologic stress (chosen due to pt's recent fall 
on left ankle and therefore inability to perform exercise test) 
did not demonstrate defect. Due to low suspicion for ACS, 
heparin gtt, ASA, and beta blocker were not initiated especially 
in setting of bleed and lightheadedness as above. Atorvastatin 
was briefly started but then stopped after no abnormality noted 
on stress and lipid panel wnl.

CHRONIC ISSUES:
---------------
#BPPV
Continued home meclizine.

#ANXIETY
Not on any medications.

TRANSITIONAL ISSUES:
--------------------
LABS:
[ ] Recheck CBC in 1 week. Discharge Hb 9.3

ISSUES:
[ ] Connect to outpatient GYN for evaluation of fibroids, 
menorrhagia
[ ] Continue Fe PO QOD at least until recheck of Fe studies in 4 
weeks
[ ] Further workup of thrombocytopenia PND collateral from ___ / 
___
[ ] Consider HBV vaccination

# CODE STATUS: Full (presumed) 
# CONTACT: Husband (______
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Meclizine 12.5 mg PO Q12H:PRN dizzy 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*30 Tablet Refills:*0 
2.  Meclizine 12.5 mg PO Q12H:PRN dizzy  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#Symptomatic Anemia
#Iron Deficiency Anemia

SECONDARY DIAGNOSIS
#Menorrhagia
#Uterine Fibroid
#Concern for Acute Coronary Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___!

WHY WAS I IN THE HOSPITAL?
- You were having lightheadedness

WHAT HAPPENED IN THE HOSPITAL?
- You were found to have low blood counts, likely because of 
your heavy menstruation
- For this, you were given IV fluids as well as IV iron
- You were also restarted on oral iron supplementation
- You also received a pharmacologic stress test to make sure you 
were not having a heart attack. This was reassuringly normal.

WHAT SHOULD I DO AFTER THE HOSPITAL?
- Please take your medications as directed, especially your iron 
supplementation
  - Iron generally should not be taken with food.
  - Iron should especially be taken separately from calcium
    containing foods and beverages (milk), calcium supplements,
    cereals, dietary fiber, tea, coffee, and eggs.
  - Iron should be given two hours before, or four hours after,
    ingestion of antacids.
- Please establish and follow up at the ___ 
primary care
- Please also obtain a copy of your medical records from New 
___ if possible to bring to your first outpatient visit

WE WISH YOU THE BEST!
Your ___ Care Team
 
Followup Instructions:
___